US07344702B2
Synthesis of 4-(2-(4-(4-hydroxybutyl)phenyl) ethoxy) quinazoline
To 4-(2-(4-(4-tert-butyldimethylsilyloxybutyl) phenyl) ethoxy) quinazoline (0.4 g, 0.916 mmol) is added tetrabutylammonium fluoride solution (1M TBAF in THF, 4.58 ml, 4.58 mmol). The solution is stirred for 2 hours after which water is added to the reaction and this is extracted in ethyl acetate. The organic layer is then washed with water, dried and concentrated. The residue obtained is purified by flash chromatography (silica gel; ethyl acetate/hexanes)

reactant | 4-(2-(4-(4-tert-butyldimethylsilyloxybutyl) phenyl) ethoxy) quinazoline | 0.916 mmol, 0.4 g | [Si](C)(C)(C(C)(C)C)OCCCCC1=CC=C(C=C1)CCOC1=NC=NC2=CC=CC=C12 | C26H36N2O2Si
reactant | tetrabutylammonium fluoride | 4.58 mmol, 1M, 4.58 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 4-(2-(4-(4-hydroxybutyl)phenyl) ethoxy) quinazoline | OCCCCC1=CC=C(C=C1)CCOC1=NC=NC2=CC=CC=C12 | C20H22N2O2
